US07897609B2
The method described in Part C of the preparation of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol was used to treat tert-butyl 2-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-1,1-dimethylethylcarbamate (64.0 g, 0.156 mol) with ethoxyacetyl chloride (21.0 g, 0.171 mol) in acetonitrile (640 mL). At the completion of the reaction, additional acetonitrile (200 mL) was added, and the solid product was isolated by filtration, washed with a small volume of acetonitrile, and dried for four hours to provide 55.6 g of tert-butyl 2-({7-bromo-3-[(ethoxyacetyl)amino][1,5]naphthyridin-4-yl}amino)-1,1-dimethylethylcarbamate hydrochloride.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | tert-butyl 2-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-1,1-dimethylethylcarbamate | 0.156 mol, 64.0 g | NC=1C=NC2=CC(=CN=C2C1NCC(C)(C)NC(OC(C)(C)C)=O)Br | C17H24BrN5O2
reactant | ethoxyacetyl chloride | 0.171 mol, 21.0 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | acetonitrile | 640 mL | C(C)#N | C2H3N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | tert-butyl 2-({7-bromo-3-[(ethoxyacetyl)amino][1,5]naphthyridin-4-yl}amino)-1,1-dimethylethylcarbamate hydrochloride | 55.6 g | Cl.BrC1=CN=C2C(=C(C=NC2=C1)NC(COCC)=O)NCC(C)(C)NC(OC(C)(C)C)=O | InChI=1S/C21H30BrN5O4.ClH/c1-7-30-11-16(28)26-15-10-23-14-8-13(22)9-24-17(14)18(15)25-12-21(5,6)27-19(29)31-20(2,3)4;/h8-10H,7,11-12H2,1-6H3,(H,23,25)(H,26,28)(H,27,29);1H
